US06969713B2
Cis-2-(3,5-Dimethyl-4-(quinazolin-4-yl)piperazin-1-yl)-N-(2-methyl-5-(4-piperidinyloxy)phenyl)acetamide
1,1-Dimethylethyl, 4-(4-quinazolinyl)-3,5-dimethylpiperazine-1-carboxylate 4-Chloroquinazoline (6 g), cis-1,1-diethylethyl, 3,5-dimethylpiperazine-1-carboxylate (7.8 g), N,N-diisopropylethylamine (32 ml) in 1-methyl-2-pyrrolidinone (70 ml) were heated at 120° C. for 6 days under nitrogen. The mixture was partitioned between ethyl acetate and brine. The organic phase collected and further washed with brine (×2), collected, dried (MgSO4) and solvent evaporated under reduced pressure to leave a pale brown solid. Purification was by silica gel chromatograpy eluting with ethyl acetate/iso-hexane (3:7) to give the subtitle compound as a pale yellow oil. Yield: 1.1 g

reactant | 4-(4-quinazolinyl)-3,5-dimethylpiperazine-1-carboxylate 4-Chloroquinazoline | 6 g | ClC1=NC=NC2=CC=CC=C12.N1=CN=C(C2=CC=CC=C12)N1C(CN(CC1C)C(=O)O)C
reactant | 3,5-dimethylpiperazine-1-carboxylate | 7.8 g | CC1CN(CC(N1)C)C(=O)[O-]
reactant | N,N-diisopropylethylamine | 32 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-methyl-2-pyrrolidinone | 70 ml | CN1C(CCC1)=O | C5H9NO
product | Cis-2-(3,5-Dimethyl-4-(quinazolin-4-yl)piperazin-1-yl)-N-(2-methyl-5-(4-piperidinyloxy)phenyl)acetamide | C[C@@H]1CN(C[C@@H](N1C1=NC=NC2=CC=CC=C12)C)CC(=O)NC1=C(C=CC(=C1)OC1CCNCC1)C | C28H36N6O2
